US06288096B1
A solution of 3.41 g (10 mmole) tert-butyl N-{4-[2-(4-formylphenoxy)ethyl]phenyl}carbamate and 1.29 g (11 mmole) 2,4-thiazolidinedione in toluene containing a catalytic amount of piperidinium acetate was refluxed in a Dean-Stark water trap for 3 hours. The reaction was followed by TLC and more 2,4-thiazolidinedione was added during the reaction time. The solution was cooled to room temperature filtered and the precipitate was refluxed in methanol. Another filtration gave 3.2 g (yield 72.6%) 5-(4-[2-(4-tert-butyloxycarbonylaminophenyl)ethoxy]benzylidene)thiazolidine-2,4-dione as a light yellow, solid substance.

reactant | tert-butyl N-{4-[2-(4-formylphenoxy)ethyl]phenyl}carbamate | 10 mmole, 3.41 g | C(=O)C1=CC=C(OCCC2=CC=C(C=C2)NC(OC(C)(C)C)=O)C=C1 | C20H23NO4
reactant | 2,4-thiazolidinedione | 11 mmole, 1.29 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | piperidinium acetate | C(C)(=O)[O-].[NH2+]1CCCCC1
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-(4-[2-(4-tert-butyloxycarbonylaminophenyl)ethoxy]benzylidene)thiazolidine-2,4-dione | 3.2 g, yield 72.6% | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)CCOC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C23H24N2O5S
